US06335459B1
Cesium carbonate (3.42 g, 10.5 mmol) was added to a solution of 2-chloro-3-hydroxymethylphenol (1.59 g, 10 mmol) in acetone at room temperature, and the reaction mixture allowed to stir for 30 minutes. Methyl bromoacetate (1.68 g, 11 mmol) was then added. The mixture was stirred overnight, filtered, and the filtrate was concentrated in vacuo. Purification of the residue by silica gel flash chromatography, eluting with dichloromethane/methanol, gave (2-chloro-3-hydroxymethylphenoxy)acetic acid methyl ester as a white crystalline solid (1.94 g, 84.1%).

reactant | Cesium carbonate | 10.5 mmol, 3.42 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-chloro-3-hydroxymethylphenol | 10 mmol, 1.59 g | ClC1=C(C=CC=C1CO)O | C7H7ClO2
reactant | Methyl bromoacetate | 11 mmol, 1.68 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | CC(=O)C | C3H6O
product | (2-chloro-3-hydroxymethylphenoxy)acetic acid methyl ester | 1.94 g, 84.1% | COC(COC1=C(C(=CC=C1)CO)Cl)=O | C10H11ClO4
